US04214093
A 5.2-g portion of the p-ethoxycarbonylphenyl 5-nitro-1,2,3,4-tetrahydro-1-naphthoate obtained above was catalytically reduced with 5% palladium-carbon in ethyl acetate. After removal of the catalyst by filtration, the ethyl acetate was removed by distillation to obtain p-ethoxycarbonylphenyl 5-amino-1,2,3,4-tetrahydro-1-naphthoate which was dissolved in diethyl ether and dry gaseous hydrogen chloride was introduced thereinto to obtain 4.5 g of p-ethoxycarbonylphenyl 5-amino-1,2,3,4-tetrahydro-1-naphthoate hydrochloride, m.p. 218°-219° C.

reactant | p-ethoxycarbonylphenyl 5-nitro-1,2,3,4-tetrahydro-1-naphthoate | [N+](=O)([O-])C1=C2CCCC(C2=CC=C1)C(=O)OC1=CC=C(C=C1)C(=O)OCC | C20H19NO6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | [C].[Pd]
product | p-ethoxycarbonylphenyl 5-amino-1,2,3,4-tetrahydro-1-naphthoate | NC1=C2CCCC(C2=CC=C1)C(=O)OC1=CC=C(C=C1)C(=O)OCC | C20H21NO4
